US06984653B2
(ii) Production of N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]acetamide
Triethylamine (137 μl) and acetic anhydride (74.0 μl) were added to a solution of 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine (200 mg) in THF at 0° C., and the mixture was stirred at 0° C. for 1.5 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; dichloromethane to dichloromethane:methanol=20:1) and recrystallized from ethyl acetate-hexane to give the titled compound (123 mg) as colorless needle crystals.

reactant | Triethylamine | 137 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 74.0 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine | 200 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCN)(F)F | C28H29F3N4O2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]acetamide | 123 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCNC(C)=O)(F)F | C30H31F3N4O3
